US06852731B2
(1R)-2-(methylamino)-1-pyrazin-2-ylethanol
As described for the preparation of (1R)-2-(methylamino)-1-pyridin-2-ylethanol, 2-acetylpyrazine is converted to the title compound, isolated as a light orange liquid that solidified on standing.

reactant | (1R)-2-(methylamino)-1-pyridin-2-ylethanol | CNC[C@@H](O)C1=NC=CC=C1 | C8H12N2O
reactant | 2-acetylpyrazine | C(C)(=O)C1=NC=CN=C1 | C6H6N2O
product | (1R)-2-(methylamino)-1-pyrazin-2-ylethanol | CNC[C@@H](O)C1=NC=CN=C1 | C7H11N3O
